US08486939B2
A mixture of 0.301 g (3.16 mmol) of 3-hydroxypyridine and 0.132 g (3.30 mmol) of NaOH was stirred in water until a clear solution was obtained. The water was removed and the residue was combined with a mixture of 0.301 g (3.16 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole and 0.02 g (0.06 mmol) of tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1) in dioxane (12 mL). The resulting mixture was heated under reflux for 2 hr before being cooled, and diluted with water. The resulting precipitate was collected by filtration, and recrystallized from methanol to give 0.160 g (50% yield) of 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(3-pyridinyloxy)-1,3,5-triazin-2-yl]-1H-benzimidazole: mp 229-231° C.; 1H NMR (CDCl3) δ8.63-8.60 (m, 2H), 8.12 (dd, J=7.1, 1.4 Hz, 1H), 7.87 (dd, J=7.1, 1.4 Hz, 1H), 7.59 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 7.45 (ddd, J=8.2, 4.6, 0.3 Hz, 1H), 7.41-7.34 (m, 2H), 7.25 (t, JHF=53.6 Hz, 1H), 3.99-3.96 (m, 2H), 3.89-3.83 (m, 4H), 3.79-3.77 (m, 2H); Anal. Calcd. for C20H17F2N7O2 0.7H2O: C, 54.8; H, 4.2; N, 22.4. Found: C, 54.5; H, 4.0; N, 22.0%.

reactant | 3-hydroxypyridine | 3.16 mmol, 0.301 g | OC=1C=NC=CC1 | C5H5NO
reactant | NaOH | 3.30 mmol, 0.132 g | [OH-].[Na+]
reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 3.16 mmol, 0.301 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.06 mmol, 0.02 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | water | O | H2O
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(3-pyridinyloxy)-1,3,5-triazin-2-yl]-1H-benzimidazole | 0.160 g, 50% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)OC=1C=NC=CC1)C=CC=C2)F | C20H17F2N7O2
